US07888364B2
In a sealed tube, 1.94 g of dimethyl 2-bromoterephthalate was dissolved in 4 mL of HMPA and degassed with nitrogen prior to adding 1.1 mL of tetramethyl tin and 0.077 g of palladium tetrakistriphenylphosphene. After sealing the tube, the reaction was heated to 65° C. for 16 h. The reaction was then partitioned into ethylether and water and extracted. The organic layers were washed with 5% ammonium hydroxide, 1N HCl, again with 5% ammonium hydroxide, and finally with water. Filtration of the solvent through sodium sulfate and evaporation gave 1.44 g of crude dimethyl 2-methylterephthalate. 210 mg of dimethyl 2-methylterephthalate was hydrolyzed via Procedure M to give 4-(methoxycarbonyl)-3-methylbenzoic acid. Silica gel chromatography was performed (0% to 70% EtOAc gradient in Hexanes) to yield 115 mg of 4-(methoxycarbonyl)-3-methylbenzoic acid. 4-(methoxycarbonyl)-3-methylbenzoic acid was then coupled to dimethylamine hydrochloride via Procedure G. The crude methyl 4-(dimethylcarbamoyl)-2-methylbenzoate was then hydrolyzed via Procedure M to give 110 mg of 4-(dimethylcarbamoyl)-2-methylbenzoic acid. 4-chloro-3-(pyridin-2-yl)aniline was coupled to 110 mg of 4-(dimethylcarbamoyl)-2-methylbenzoic acid via Procedure G to yield N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4,N4,2-trimethylterephthalamide. MS (Q1) 394 (M)+.

reactant | 4-(methoxycarbonyl)-3-methylbenzoic acid | COC(=O)C1=C(C=C(C(=O)O)C=C1)C | C10H10O4
reactant | dimethylamine hydrochloride | Cl.CNC
reactant | methyl 4-(dimethylcarbamoyl)-2-methylbenzoate | CN(C(=O)C1=CC(=C(C(=O)OC)C=C1)C)C | C12H15NO3
product | 4-(dimethylcarbamoyl)-2-methylbenzoic acid | 110 mg | CN(C(=O)C1=CC(=C(C(=O)O)C=C1)C)C | C11H13NO3
